US05061793
To a solution of 1.89 g (10.0 mmol) of 2,6-dichloropurine in 100 ml of tetrahydrofuran was added 2.62 g (10.0 mmol) of triphenylphosphine and 1.74 g (10.0 mmol) of diethyl azodicarboxylate. To this mixture was added a solution of 3.98 g (10.0 mmol) of 3,5-bis(t-butyldimethylsiloxy)-1-hydroxy-2-desoxy-2,2-difluororibose in 25 ml of tetrahydrofuran and the mixture was stirred at room temperature overnight. The precipitated solid was removed by vacuum filtration and the filtrate was concentrated under vacuum. The residue was dissolved in 100 ml of diethyl ether and the solution was stirred at room temperature overnight. The mixture was filtered and the filtrate was evaporated to dryness under vacuum. The residue was dissolved in 25 ml of ethyl acetate, and the mixture was set in the refrigerator. The mixture was filtered and the filtrate was chromatographed by HPLC while eluting with hexane/ethyl acetate (4/1, v/v). The first chromaphore containing fractions were combined and the solvent was evaporated therefrom to provide 2.5 g of 1-(2,6-dichloro-9H-purin-9-yl)-3,5-bis(t-butyldimethylsiloxy)-2-desoxy-2,2-difluororibose. m/e=[568-(t-butyl)]=511

reactant | 2,6-dichloropurine | 10.0 mmol, 1.89 g | ClC1=NC(=C2NC=NC2=N1)Cl | C5H2Cl2N4
reactant | triphenylphosphine | 10.0 mmol, 2.62 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 10.0 mmol, 1.74 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 3,5-bis(t-butyldimethylsiloxy)-1-hydroxy-2-desoxy-2,2-difluororibose | 10.0 mmol, 3.98 g | O([Si](C)(C)C(C)(C)C)[C@@](C(C(=O)O)(F)F)(O)[C@H](O)C(O)O[Si](C)(C)C(C)(C)C | C17H36F2O7Si2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 1-(2,6-dichloro-9H-purin-9-yl)-3,5-bis(t-butyldimethylsiloxy)-2-desoxy-2,2-difluororibose | 2.5 g | ClC1=NC(=C2N=CN(C2=N1)C(=O)C([C@](O)([C@H](O)C(O)O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C)(F)F)Cl | C22H36Cl2F2N4O6Si2
